US06350892B1
Methyl [4-[3-(tert-butyldiphenylsilyloxy)propyl]phenoxy]acetate
A solution of 3(4-hydroxyphenyl)-1-(tert-butyldiphenylsilyloxy)propane (3.91 g, 10.0 mmol) and methyl bromoacetate (3.0 g, 19.7 mmol) in acetonitrile (100 ml) was treated with powdered anhydrous potassium carbonate (10 g) and the resulting mixture was heated under reflux for 1 h. The cooled mixture was filtered and the filtrate was concentrated in vacuo. Chromatography of the residue as silica gel (elution toluene-ethyl acetate, 98:2) gave 4.36 g (94%) of the title material as clear oil.

reactant | 3(4-hydroxyphenyl)-1-(tert-butyldiphenylsilyloxy)propane | 10.0 mmol, 3.91 g | OC1=CC=C(C=C1)CCCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C25H30O2Si
reactant | methyl bromoacetate | 19.7 mmol, 3.0 g | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | Methyl [4-[3-(tert-butyldiphenylsilyloxy)propyl]phenoxy]acetate | 4.36 g, 94% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCCC1=CC=C(OCC(=O)OC)C=C1 | C28H34O4Si
